US07365095B2
To a solution of (2R)-2-azidomethyl-9-(2,6-dichloro-phenyl)-2,3,4,5-tetrahydro-benzo[b]oxepine (0.24 g, 0.689 mmol) in tetrahydrofuran (10 mL) and water (1 mL) was added polymer-bound triphenylphosphine (˜3 mmol/g, 0.69 g, 2.068 mmol) and the reaction mixture stirred at room temperature for 20 hours. The brown suspension was then filtered through celite, the filter cake washed with ethyl acetate (50 mL) and the combined filtrates concentrated under reduced pressure to afford a yellow syrup. Purification by flash chromatography using a solvent gradient of 0 to 5% ammonia saturated methanol solution in dichloromethane gave 179 mg (80%) of {[(2R)-9-(2,6-dichlorophenyl)-2,3,4,5-tetrahydro-1-benzoxepin-2-yl]methyl}amine as a colorless syrup. The product was dissolved in 2-propanol (1 mL) and diethyl ether (3 mL), a solution of hydrogen chloride (1.0 M in diethyl ether, 0.55 mL, 0.55 mmol) was added followed by hexane (4 mL). The resulting white precipitate was filtered to afford 182 mg (73%) of {[(2R)-9-(2.6-dichlorophenyl)-2,3.4,5-tetrahydro-1-benzoxepin-2-yl]methyl}amine hydrochloride as a white solid. MS (ESI) m/z 322 ([M+H]+).

reactant | (2R)-2-azidomethyl-9-(2,6-dichloro-phenyl)-2,3,4,5-tetrahydro-benzo[b]oxepine | 0.689 mmol, 0.24 g | N(=[N+]=[N-])C[C@H]1CCCC2=C(O1)C(=CC=C2)C2=C(C=CC=C2Cl)Cl | C17H15Cl2N3O
reactant | triphenylphosphine | 2.068 mmol, 0.69 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | {[(2R)-9-(2,6-dichlorophenyl)-2,3,4,5-tetrahydro-1-benzoxepin-2-yl]methyl}amine | 179 mg, 80% | ClC1=C(C(=CC=C1)Cl)C1=CC=CC=2CCC[C@@H](OC21)CN | C17H17Cl2NO
